US06265349B1
Preparation of 3-(4-chloro-2-fluoro-5-propargyloxyphenyl)-1,5-dimethyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-76)
To 10 ml of DMF, 0.20 g (0.6 mmol) of 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1,5-dimethyl-6-trifluoromethyl-2(1H)-pyridone, 0.1 g (0.7 mmol) of potassium carbonate and 0.1 g (0.8 mmol) of propargyl bromide were added, followed by stirring at 60° C. for 2 hours. This reaction solution was poured into water and extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and then, the obtained residue was purified by silica gel column chromatography to obtain 0.12 g of the desired product (yield: 53%). Melting point: 107-108° C.

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1,5-dimethyl-6-trifluoromethyl-2(1H)-pyridone | 0.6 mmol, 0.20 g | ClC1=CC(=C(C=C1O)C=1C(N(C(=C(C1)C)C(F)(F)F)C)=O)F | C14H10ClF4NO2
reactant | potassium carbonate | 0.7 mmol, 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 0.8 mmol, 0.1 g | C(C#C)Br | C3H3Br
solvent | water | O | H2O
product | 3-(4-chloro-2-fluoro-5-propargyloxyphenyl)-1,5-dimethyl-6-trifluoromethyl-2(1H)-pyridone | 0.12 g, yield: 53% | ClC1=CC(=C(C=C1OCC#C)C=1C(N(C(=C(C1)C)C(F)(F)F)C)=O)F | C17H12ClF4NO2
